US05708008
5-(4-chlorobenzoyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.13 gm (5.0 mMol) 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole and 0.64 mL (5.0 mMol) 4-chlorobenzoyl chloride, 0.544 gm (29.9%) of the title compound were recovered as a tan solid.

reactant | 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 5.0 mMol, 1.13 gm | NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H17N3
reactant | 4-chlorobenzoyl chloride | 5.0 mMol, 0.64 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 5-(4-chlorobenzoyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.544 gm, 29.9% | ClC1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C=2CCN(CC2)C)C=C1 | C21H20ClN3O
